US04820712
N-(tert.-butyloxycarbonyl)-L-alanine methyl ester (4a)
This compound was prepared in 93% yield from the hydrochloride of L-alanine methyl ester (13.2 g, 103.4 mmol) by treatment with di-tert.-butyl pyrocarbonate following the procedure that has been described earlier1,2. TLC Rf 0.80 (eluent MeOH/CHCl3, 3/97). 1H NMR (CDCl3) δ 1.36 (d, J=5 Hz, 3H, CHCH3), 1.50 (s, 9H, t-Bu), 3.76 (s, 3H, CO2CH3), 4.03-4.65 (m, 1H, CHCH3), 5.50 (br d, 1H, NH).

reactant | hydrochloride | Cl | ClH
reactant | L-alanine methyl ester | 103.4 mmol, 13.2 g | COC([C@@H](N)C)=O | C4H9NO2
reactant | di-tert.-butyl pyrocarbonate | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N-(tert.-butyloxycarbonyl)-L-alanine methyl ester | 93% yield | COC([C@@H](NC(=O)OC(C)(C)C)C)=O | C9H17NO4
